US08557805B2
5-{[6-(Methylsulfonyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxamide
To a solution of 5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxylic acid (3 g) in N,N-dimethylformamide (20 mL) were added 1-hydroxybenzotriazole monohydrate (1.6 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (2 g), and 10% aqueous ammonia (27 mL), and the mixture was stirred at room temperature for 1 hr. 1N HCl was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was crystallized from diethyl ether to give the title compound (1.35 g, yield 45%) as yellow powder.

reactant | 5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxylic acid | 3 g | CS(=O)(=O)C1=CC=C(C=N1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C(=O)O | C20H20N2O7S
reactant | 1-hydroxybenzotriazole monohydrate | 1.6 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2 g | Cl.C(C)N=C=NCCCN(C)C
reactant | ammonia | 27 mL | N | H3N
reactant | HCl | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 5-{[6-(Methylsulfonyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxamide | 1.35 g, yield 45% | CS(=O)(=O)C1=CC=C(C=N1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C(=O)N | C20H21N3O6S
